US06521643B1
A solution of N-(5-(hydroxy-(4-methylpyridin-2-yl)methyl)-4-methylthiazol-2-yl)guanidine (0.54 g) and 96% sulfuric acid (6.5 ml) in acetonitrile (26 ml) was stirred at 5° C. for 18 hours. The pH of the mixture was adjusted to 12 with 4N aqueous sodium hydroxide, and the mixture was extracted with ethyl acetate three times. The combined organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was triturated with ethyl acetate, collected by filtration and dried. The crude compound was recrystallized from ethanol/n-hexane to give N-(5-(acetylamino-(4-methylpyridin-2-yl)methyl)-4-methylthiazol-2-yl)-guanidine (211 mg).

reactant | N-(5-(hydroxy-(4-methylpyridin-2-yl)methyl)-4-methylthiazol-2-yl)guanidine | 0.54 g | OC(C1=C(N=C(S1)NC(=N)N)C)C1=NC=CC(=C1)C | C12H15N5OS
reactant | sulfuric acid | 6.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | acetonitrile | 26 ml | C(C)#N | C2H3N
product | N-(5-(acetylamino-(4-methylpyridin-2-yl)methyl)-4-methylthiazol-2-yl)-guanidine | 211 mg | C(C)(=O)NC(C1=C(N=C(S1)NC(=N)N)C)C1=NC=CC(=C1)C | C14H18N6OS
